US04840948
1-(3-Methoxy-4-hydroxystyryl)-4-methyl-7,8-methylenedioxy-5H-2,3-benzodiazepine
A mixture of 12.5 ml of dimethylformamide and 2.1 ml (42 mM) of 100% hydrazine hydrate is cooled to 5° to 6° C. with ice-water, then 6.14 g (14 mM) of 1-(3-methoxy-4-hydroxystyryl)-3-methyl-6,7-methylenedioxy-2-benzopyrylium perchlorate (m.p. 300° C. carboniz.) are added at stirring during 15 minutes. The orange solution is stirred for a further 15 minutes, then 12.5 ml of distilled water are added at cooling which initiates the precipitation of the end-product. The crystal mash is stored for 12 hours at 5° C., filtered, washed with 3×20 ml of distilled water and dried at 80° to 100° C. Yield 4.81 g, m.p. 210° to 213° C. d. For further purification this product is refluxed with 24 ml of 99.5% ethanol, cooled, filtered, washed with 3×20 ml of ethanol and dried. Yield 4.59 g (93.7%), m.p. 214° to 216° C. (decomp.)

reactant | dimethylformamide | 12.5 ml | CN(C=O)C | C3H7NO
reactant | hydrazine hydrate | 42 mM, 2.1 ml | O.NN
reactant | 1-(3-methoxy-4-hydroxystyryl)-3-methyl-6,7-methylenedioxy-2-benzopyrylium perchlorate | 14 mM, 6.14 g | Cl(=O)(=O)(=O)[O-].COC=1C=C(C=C[CH2+]2OC(=CC3=C2C=C2C(=C3)OCO2)C)C=CC1O
solvent | water | 12.5 ml | O | H2O
product | 1-(3-Methoxy-4-hydroxystyryl)-4-methyl-7,8-methylenedioxy-5H-2,3-benzodiazepine | COC=1C=C(C=CC2=NN=C(CC3=C2C=C2C(=C3)OCO2)C)C=CC1O | C20H18N2O4
